US05824811
To acetone (30 ml) were added 4-bromobutyric acid ethyl ester (1.5 ml, 10.5 mmol) and potassium thioacetate (1.8 g, 15.8 mmol), and the mixture was stirred at room temperature for 30 minutes and then filtered, and the solids were washed with acetone. The filtrate was concentrated, and then purified by column chromatography on silica gel (hexane:ethyl acetate=5:1) to give 4-acetylthiobutyric acid ethyl ester (2.03 g). Then, ethyl magnesium bromide (1.04M solution in tetrahydrofuran, 31.3 ml, 32.6 mmol) in dry tetrahydrofuran (8 ml) was cooled to 0° C. under an argon atmosphere, and a solution of 886 mg of the compound obtained as above in dry tetrahydrofuran (4 ml) was added dropwise and the mixture was stirred at room temperature for 2 hours. The reaction mixture was quenched with an aqueous saturated ammonium chloride solution, acidified with 10% hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1) to give the title compound (221 mg, 2 steps, 29%).

reactant | 4-bromobutyric acid ethyl ester | 10.5 mmol, 1.5 ml | C(C)OC(CCCBr)=O | C6H11BrO2
reactant | potassium thioacetate | 15.8 mmol, 1.8 g | C(C)(=S)[O-].[K+]
reactant | acetone | 30 ml | CC(=O)C | C3H6O
product | 4-acetylthiobutyric acid ethyl ester | 2.03 g | C(C)OC(CCCC(C)=O)=S | C8H14O2S
